US09085555B2
(3-Aminomethyl-5-chloro-4-fluoro-phenyl)-(3-methoxy-azetidin-1-yl)-methanone
was prepared according to Scheme C3 (step B) from [3-chloro-2-fluoro-5-(3-methoxy-azetidine-1-carbonyl)-benzyl]-carbamic acid tert-butyl ester (99 mg, 0.3 mmol) and TFA (0.5 mL) in CH2Cl2. MS (LC-MS): 273.0 [M]+; tR (HPLC conditions c): 2.73 min.

reactant | [3-chloro-2-fluoro-5-(3-methoxy-azetidine-1-carbonyl)-benzyl]-carbamic acid tert-butyl ester | 0.3 mmol, 99 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C(=O)N1CC(C1)OC)Cl)F)=O | C17H22ClFN2O4
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3-Aminomethyl-5-chloro-4-fluoro-phenyl)-(3-methoxy-azetidin-1-yl)-methanone | NCC=1C=C(C=C(C1F)Cl)C(=O)N1CC(C1)OC | C12H14ClFN2O2
